### PR TITLE
New order structures and definitionally involutive duals

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

This PR adds the following structures and implements definitionally involutive duals (except for complemented lattice structures):
- `(b|t|tb)POrderType`,
- `(|b|t|tb|fin|finB)MeetSemilatticeType`: meet-semilattice,
- `(|b|t|tb|fin|finT)JoinSemilatticeType`: join-semilattice,
- `tLatticeType`,
- `tDistrLatticeType`,
- `(b|t|tb)OrderType`, and
- `fin(B|T|TB)POrderType`.

Instances of the finite lattice structures `finLatticeType`, `finDistrLatticeType`, and `finOrderType` (except for the complemented one) are now allowed to be empty. The original (nonempty) finite lattice structures have been renamed to `finTBLatticeType`, `finTBDistrLatticeType`, `finTBOrderType`, and `finCTBDistrLatticeType`.

cc: @strub

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- [x] added corresponding documentation in the headers
- [x] merge dependency: #494

##### CI overlays

- math-comp/finmap#76
- math-comp/real-closed#34
- math-comp/multinomials#40 (Since it also depends on finmap, simply adding an overlay would not work)

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

**Comment by spitters** [comment]
Did you consider also join semilattices? Perhaps as an meet semilattice on the opposite order.

**Comment by pi8027** [comment]
@spitters We did not consider adding a structure of join semilattices because the canonical `meetSemilatticeType` instance of `T^d` should work as the canonical join semilattice of `T` where `^d` stands for dual. But, actually, I see that making this design choice work requires some more work, and I do not fully understand how to do that yet.

**Comment by spitters** [comment]
It's done using duality in Corn.
The HoTT library has duality for categories.

What are the issues in math-comp?

**Comment by pi8027** [comment]
The first issue is that the class record of `latticeType` should include two semilattice mixins to implement proper inheritance from join semilattices to lattices, but now actually it does not. In packed classes, inheritance should be implemented by inclusion rather than construction. See our IJCAR '20 papers for details:
- [Competing inheritance paths in dependent type theory: a case study in functional analysis](https://hal.inria.fr/hal-02463336),
- [Validating Mathematical Structures](https://arxiv.org/abs/2002.00620).

The second issue is that I do not see how to implement structure inference of join semilattices and lattices without having the actual interface for join semilattices. We probably should have the join semilattice structure to implement complete duality between meet/join semilattices, but it is still unclear to me.

Also, since this PR now features several new improvements from immediately useful ones to experimental and incomplete ones, I would rather split this PR into some fragments and merge a preliminary part before working on the complete implementation of duality.

**Comment by pi8027** [comment]
Thinking about definitionally involutive duals, I also believe that `[latticeType (A *p B)^d]` and `[latticeType A^d *p B^d]` should be convertible.

**Comment by CohenCyril** [comment]
Suggestion:
```coq
Inductive display := Simple of unit | Dual of display.
Notation dual_display d := (if d is Dual d then d else Dual d).

Record pt (d : display) := PT {sort :> Type; elt1 : sort; elt2 : sort}.
Arguments elt1 {d} : simpl never.
Arguments elt2 {d} : simpl never.

Notation tt_display := (Simple tt).
Notation default_display := (Simple _).
Fact prod_key : unit. Proof. exact: tt. Qed.
Notation prod_display := (Simple prod_key).

Definition dual {d} (T : pt d) : pt (dual_display d) := @PT _ T (elt2 T) (elt1 T).
Definition dprod {d1 d2} (T1 : pt d1) (T2 : pt d2) : pt prod_display :=
 @PT _ (T1 * T2) (elt1 T1, elt1 T2) (elt2 T1, elt2 T2).

Definition pt_bool : pt tt_display := @PT _ bool false true.
Notation simple_elt1 := (@elt1 default_display). 
Notation dual_elt1 := (@elt1 (Dual default_display)). 
Notation simple_elt2 := (@elt2 default_display). 
Notation dual_elt2 := (@elt2 (Dual default_display)). 

Goal dual (dual (pt_bool)) = pt_bool.
reflexivity.
Qed.

Goal elt1 (dual (dual pt_bool)) = elt2 (dual pt_bool).
reflexivity.
Qed.
```

**Comment by pi8027** [comment]
`dual (dual T) = T` holds for some particular instances, but in general, it does not.
```
Goal forall d (T : pt d), dual (dual T) = T.
reflexivity.
Qed.
```

**Comment by CohenCyril** [comment]
```coq
From Coq Require Import ssreflect ssrfun ssrbool.

Set Primitive Projections.
Record display := Display { is_dual : bool; disp : unit }.
Unset Primitive Projections.
Arguments is_dual _ /.

Notation dual_display d := (let: Display n u := d in @Display (~~ n) u).

Record pt (d : display) := PT {sort :> Type; elt1 : sort; elt2 : sort}.
Arguments elt1 {d} : simpl never.
Arguments elt2 {d} : simpl never.

Notation tt_display := (Display false tt).

Fact prod_key : unit. Proof. exact: tt. Qed.
Notation prod_display := (Display false prod_key).

Definition dual {d} (T : pt d) : pt (dual_display d) := @PT _ T (elt2 T) (elt1 T).
Definition dprod {d1 d2} (T1 : pt d1) (T2 : pt d2) : pt prod_display :=
 @PT _ (T1 * T2) (elt1 T1, elt1 T2) (elt2 T1, elt2 T2).

Definition pt_bool : pt tt_display := @PT _ bool false true.
Notation simple_elt1 := (@elt1 (Display false _)). 
Notation dual_elt1 := (@elt1 (Display true _)). 
Notation simple_elt2 := (@elt2 (Display false _)). 
Notation dual_elt2 := (@elt2 (Display true _)). 

Goal dual (dual (pt_bool)) = pt_bool.
reflexivity.
Qed.

Goal elt1 (pt_bool) = elt2 (dual pt_bool).
simpl.
reflexivity.
Qed.

Goal elt1 (dual (dual pt_bool)) = elt2 (dual pt_bool).
simpl.
reflexivity.
Qed.

Goal elt1 (dprod pt_bool (dual pt_bool)) = elt2 (dual (dprod (dual pt_bool) pt_bool)).
simpl.
Fail reflexivity. (* products are not primitive records, so this does not work *)
Abort.

Fail Goal forall d u (T : pt (Display d u)), dual (dual T) = T.
(* Would work with definitional ~~ (~~ b) = b *)
```

**Comment by CohenCyril** [comment]
> `dual (dual T) = T` holds for some particular instances, but in general, it does not.

This theorem will hold for every concrete instance.

**Comment by pi8027** [comment]
Recently, I have attempted to implement a complete duality of structures without having some dual structures, but my conclusion is that it seems to be impossible. For example, we have `porderType`, `bPorderType`, and `tbPorderType`, then `bPorderType (dual_display _)` can be seen as `tPorderType`, and we can define `1%O` as the dual of `0%O`. When we write `(0 = 1)%O`, we expect `tbPorderType` to be inferred, but it can never happen in this setting. So we have to declare all the dual structures anyway. Does this make sense?

**Comment by pi8027** [comment]
I have added join-semilattice structures and some order structures with a top but without a bottom anyway. I hope this will be helpful to implement the order structures and definitionally involutive duals using Hierarchy Builder even if we will not merge this as it is. It seems that it also simplifies the theory part of order.v by accident.

**Comment by pi8027** [comment]
Documentation is not done yet and finmap has to be fixed. Except that, this PR is ready for review. But we have an option not to merge this PR and rather reimplement it using HB.

**Comment by pi8027** [comment]
@CohenCyril Would you like to merge this PR soon? I'm not requesting to include this in 1.12. But I would like to know whether it is reasonable to rework #281 after merging this, or I should not wait for that.

**Comment by CohenCyril** [comment]
> @CohenCyril Would you like to review and merge this PR soon? I'm not requesting to include this in 1.12. But I would like to know whether it is reasonable to rework #281 after merging this, or I should not wait for that.

Dear @pi8027, I am afraid I will not have the time to review this PR this month since it is a pretty big one, and I would need the changelog as a guideline to read the diff... I think we should reschedule it to 1.13...

**Comment by CohenCyril** [comment]
BTW, I came across a problem recently: I could not make `'I_n` a `finOrderType` for any `n` (not manifestly positive), because our phrasing of `finOrderType` inherits structures with bottom and top. I remember making this choice consciously in your office last year, but nowadays I think we should backtrack on that. Are you doing it in this PR?

**Comment by pi8027** [comment]
> Dear @pi8027, I am afraid I will not have the time to review this PR this month since it is a pretty big one, and I would need the changelog as a guideline to read the diff... I think we should reschedule it to 1.13...

@CohenCyril Sure. So I will finish the documentation work first anyway.

> BTW, I came across a problem recently: I could not make `'I_n` a `finOrderType` for any `n` (not manifestly positive), because our phrasing of `finOrderType` inherits structures with bottom and top. I remember making this choice consciously in your office last year, but nowadays I think we should backtrack on that. Are you doing it in this PR?

This choice has been made because a nonempty finite lattice always has the top and the bottom. I think what you say makes sense. This PR currently does not do that, but I can do it.

**Comment by pi8027** [comment]
> > BTW, I came across a problem recently: I could not make `'I_n` a `finOrderType` for any `n` (not manifestly positive), because our phrasing of `finOrderType` inherits structures with bottom and top. I remember making this choice consciously in your office last year, but nowadays I think we should backtrack on that. Are you doing it in this PR?
> 
> This choice has been made because a nonempty finite lattice always has the top and the bottom, but I think what you say makes sense. This PR currently does not do that, but I can do it.

Done. The diagram of the new hierarchy is attached. I still have to do the documentation work.

hierarchy_ssreflect

**Comment by pi8027** [comment]
I finished documentation and this PR is ready for review. But, we probably have to separate the finite counterparts off as `finorder.v` since `order.v` became too large (approx. 12k lines).

File: mathcomp/ssreflect/order.v [hunk 1]
```diff
@@ -987,28 +1067,39 @@ Reserved Notation "\join^p_ ( i 'in' A ) F"
...
   lt : rel T;
-  _  : forall x y, lt x y = (y != x) && (le x y);
-  _  : reflexive     le;
-  _  : antisymmetric le;
-  _  : transitive    le;
+  lt_def    : forall x y, lt x y = (y != x) && (le x y);
+  lt_def'   : forall x y, lt y x = (y != x) && (le y x); (* dual of lt_def *)
+  lexx      : reflexive     le;
+  le_anti   : antisymmetric le;
+  le_anti'  : antisymmetric (fun x y => le y x); (* dual of le_anti *)
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:1094]: They are redundant and can be replaced with:
```coq
  le_anti : forall x y, le x y -> le y x -> x = y;
```

**Comment by pi8027** [comment]
Since `(meet|join)Semilattice` is too long, I'm thinking about replacing them with `(meet|join)Order`, e.g., `meetOrderType`. Any opinion?
